data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_348693_0,[C:1](/[C:3](=[C:5](/[C:2]([H:14])([H:15])[H:16])[C:4](=[C:6]([H:17])[H:18])[O:8][H:10])[O:7][H:9])([H:11])([H:12])[H:13]>>[C:1]([C@:3]1([O:7][H:9])[C:5]([C:2]([H:14])([H:15])[H:16])=[C:4]([O:8][H:10])[C:6]1([H:17])[H:18])([H:11])([H:12])[H:13],36.60270250000608
MR_423698_0,[C:1]([C:2]([C:4]([H:20])([H:21])[H:22])([O:9][N:6]([H:13])[H:14])[H:10])([C:3]([H:17])([H:18])[H:19])([N:7]([H:15])[H:16])[O:8][N:5]([H:11])[H:12]>>[C:1]([C:2]([C:4]([H:20])([H:21])[H:22])([O:8][N:5]([H:11])[H:12])[H:10])([C:3]([H:17])([H:18])[H:19])([N:7]([H:15])[H:16])[O:9][N:6]([H:13])[H:14],56.64317000002342
MR_515264_1,[C:1]([N:2]([H:8])[H:9])([N:3]([H:10])[H:11])=[C:4]([O:7][C:5](=[C:6]([H:14])[H:15])[H:13])[H:12]>>[C:1]([N:2]([H:8])[H:9])([N:3]([H:10])[H:11])([C:4](=[O:7])[H:12])[C:5](=[C:6]([H:14])[H:15])[H:13],73.17089250002795
MR_136965_0,[C:1](/[C:3]([C:2](=[C:6]([H:15])[H:16])[O:7][H:8])=[C:5](\[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:2]([O:7][H:8])[C:6]([H:15])([H:16])[C:5]1([N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14],37.07771999994819
MR_348555_0,[C:1]1([C:4]([H:14])([H:15])[H:16])([N:8]([H:12])[H:13])[C:2]([C:7]([C:6]([H:20])([H:21])[H:22])=[O:9])([H:10])[C:3]1([C:5]([H:17])([H:18])[H:19])[H:11]>>[C:1](\[C:2]1([H:10])[C:3]([C:5]([H:17])([H:18])[H:19])([H:11])[C:7]1([C:6]([H:20])([H:21])[H:22])[O:9][H:13])([C:4]([H:14])([H:15])[H:16])=[N:8]/[H:12],44.248162499964536
MR_253076_2,[C:1]([C:3]([H:13])([H:14])[H:15])([C:5](=[C:6]([H:16])[H:17])[O:7][C:2]([C:4]([H:18])([H:19])[H:20])([H:11])[H:12])([O:8][H:9])[H:10]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:5]([C:6]([C:2]([C:4]([H:18])([H:19])[H:20])([H:11])[H:12])([H:16])[H:17])=[O:7])([O:8][H:9])[H:10],68.37867500003526
MR_147976_1,[C:1]1([O:5][N:2]([H:7])[H:8])([H:9])[C:3](=[O:6])[C:4]1([H:10])[H:11]>>[C:1]([C:3](=[O:6])[H:9])(=[C:4]([H:10])[H:11])[O:5][N:2]([H:7])[H:8],56.77871000000224
MR_703337_1,[C:1](/[N:9]=[C:5](/[C:2]([H:19])([H:20])[H:21])[C:3](=[C:4]([N:7]([H:12])[H:13])[N:8]([H:14])[H:15])[N:6]([H:10])[H:11])([H:16])([H:17])[H:18]>>[C:1]([N:9]1[C:4]([N:7]([H:12])[H:13])([N:8]([H:14])[H:15])[C:3]([N:6]([H:10])[H:11])=[C:5]1[C:2]([H:19])([H:20])[H:21])([H:16])([H:17])[H:18],43.13184000003645
MR_561234_1,[C:1](=[C:2]([N:5]([H:14])[H:15])/[C:6](=[N:8]\[O:7][H:9])[H:16])([N:3]([H:10])[H:11])[N:4]([H:12])[H:13]>>[C:1]1([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[C:2]([N:5]([H:14])[H:15])=[C:6]([H:16])[N:8]1[O:7][H:9],43.66521500000957
MR_71100_2,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[C:4]([H:14])[H:15])[H:10])([O:5][O:6][H:8])[O:7][H:9]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([O:7][H:9])[C:3]([O:5][O:6][H:8])([H:10])[C:4]1([H:14])[H:15],62.91064000003672
MR_301023_0,[C:1]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])([N:6]([C:3]([H:13])([H:14])[H:15])[O:8][H:9])[O:7][C:2]([H:10])([H:11])[H:12]>>[C:1]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])([N:6]([C:3]([H:13])([H:14])[H:15])[O:7][C:2]([H:10])([H:11])[H:12])[O:8][H:9],69.11285000000078
MR_369784_1,[C:1](/[C:6](=[C:4](\[C:3]([H:17])([H:18])[H:19])[N:5]([H:11])[H:12])[H:13])([O:7][C:2]([H:14])([H:15])[H:16])([O:8][H:9])[H:10]>>[C:1](=[C:6](/[C:4]([C:3]([H:17])([H:18])[H:19])([N:5]([H:11])[H:12])[O:7][C:2]([H:14])([H:15])[H:16])[H:13])(\[O:8][H:9])[H:10],47.13528999998744
MR_245887_1,[C:1]([C:4]([H:16])([H:17])[H:18])([N:5]([C:3]([C:2]([O:7][H:9])([H:12])[H:13])([H:14])[H:15])[H:10])([N:8]=[C:6]([H:19])[H:20])[H:11]>>[C:1]([C:4]([H:16])([H:17])[H:18])([N:5]([C:3]([C:2](=[O:7])[H:12])([H:14])[H:15])[H:10])([N:8]([C:6]([H:9])([H:19])[H:20])[H:13])[H:11],50.42276249996263
MR_96370_2,[C:1]([C:3]([H:14])([H:15])[H:16])([O:6][C:4]([C:2]([O:8][H:10])([H:12])[H:13])=[C:5]([H:17])[H:18])([O:7][H:9])[H:11]>>[C:1]([C:3]([H:14])([H:15])[H:16])([O:6][C:4]1([C:5]([H:10])([H:17])[H:18])[C:2]([H:12])([H:13])[O:8]1)([O:7][H:9])[H:11],50.7478075000337
MR_335082_1,[N:1]1([H:8])[C:2]([N:3]([H:9])[H:10])([O:6][C:4](=[O:7])[H:11])[O:5]1>>[N:1]([C:2]([N:3]([H:9])[H:10])=[O:6])([O:5][C:4](=[O:7])[H:11])[H:8],24.42292749997449
MR_272252_0,[C:1]([C:3](=[C:2](/[N:4]([H:9])[H:10])[O:6][H:8])/[C:5](=[N:7]\[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:5]([H:12])[N:7]([H:11])[C:2]1([N:4]([H:9])[H:10])[O:6][H:8])([H:13])([H:14])[H:15],45.340640000024166
MR_108468_0,[C:1]([C:4](/[C:3]([N:7]=[C:6]([H:14])[H:15])=[N:8]/[H:9])=[C:5](/[C:2]([H:16])([H:17])[H:18])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([C:5](=[C:2]([H:16])[H:18])[H:10])/[C:3](=[N:8]/[H:9])[N:7]1[C:6]([H:14])([H:15])[H:17])([H:11])([H:12])[H:13],44.5531274999793
MR_346116_2,[C:1]1([C:3]([H:13])([H:14])[H:15])([O:8][H:9])[C:5]([H:11])=[C:6]([H:12])[C:2]([C:4]([H:16])([H:17])[H:18])([H:10])[O:7]1>>[C:1]1([C:3]([H:13])([H:14])[H:15])=[C:5]([H:11])[C:6]([O:8][H:9])([H:12])[C:2]([C:4]([H:16])([H:17])[H:18])([H:10])[O:7]1,54.96021499999216
